### PR TITLE
[Merged by Bors] - feat: a multiple of a SigmaFinite measure is SigmaFinite

### PR DESCRIPTION
**Pull request by AlexKontorovich**
Co-authored-by: Heather Macbeth <25316162+hrmacbeth@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 1]
```diff
@@ -3559,6 +3559,21 @@ instance Add.sigmaFinite (μ ν : Measure α) [SigmaFinite μ] [SigmaFinite ν]
...
+    set_mem := fun _ ↦ trivial
+    finite := by
+      intro i
+      simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply,
+        nnreal_smul_coe_apply]
+      refine Iff.mpr ENNReal.mul_lt_top_iff ?_
+      left
+      exact ⟨ENNReal.coe_lt_top, measure_spanningSets_lt_top μ i⟩
+    spanning := iUnion_spanningSets μ
+  } ⟩
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:3575]: I *think* the indentation convention is the following:
```suggestion
  out' := 
  ⟨{ set := spanningSets μ
      set_mem := fun _ ↦ trivial
      finite := by
        intro i
        simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply,
          nnreal_smul_coe_apply]
        refine Iff.mpr ENNReal.mul_lt_top_iff ?_
        left
        exact ⟨ENNReal.coe_lt_top, measure_spanningSets_lt_top μ i⟩
      spanning := iUnion_spanningSets μ }⟩
```

Comment (ADedecker) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean]: Ah, but I wrote it wrong :facepalm: All fields should of course have the same indentation as the first one. Sorry for that.

Comment (ADedecker) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean]: I'll blame it on GitHub not having a monospace font when writing suggestions...

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 2]
```diff
@@ -3559,6 +3559,20 @@ instance Add.sigmaFinite (μ ν : Measure α) [SigmaFinite μ] [SigmaFinite ν]
...
+  ⟨{ set := spanningSets μ
+      set_mem := fun _ ↦ trivial
+      finite := by
+        intro i
+        simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply,
+          nnreal_smul_coe_apply]
+        refine Iff.mpr ENNReal.mul_lt_top_iff ?_
+        left
+        exact ⟨ENNReal.coe_lt_top, measure_spanningSets_lt_top μ i⟩
+      spanning := iUnion_spanningSets μ }⟩
```
Comment (AlexKontorovich) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:3574]:
```suggestion
  out' := ⟨{
    set := spanningSets μ
    set_mem := fun _ ↦ trivial
    finite := by
      intro i
      simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply,
        nnreal_smul_coe_apply]
      refine Iff.mpr ENNReal.mul_lt_top_iff ?_
      left
      exact ⟨ENNReal.coe_lt_top, measure_spanningSets_lt_top μ i⟩
    spanning := iUnion_spanningSets μ
  } ⟩
```

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean (hunk 1 above)
Comment (AlexKontorovich) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean:3575]: Ah, that's why it broke. I'll try to edit it in VS Code so I can see the spacing...

[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean]: Yes exactly.

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 3]
```diff
@@ -3559,6 +3559,20 @@ instance Add.sigmaFinite (μ ν : Measure α) [SigmaFinite μ] [SigmaFinite ν]
...
+  out' :=
+  ⟨{  set := spanningSets μ
+      set_mem := fun _ ↦ trivial
+      finite := by
+        intro i
+        simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply,
+          nnreal_smul_coe_apply]
+        refine Iff.mpr ENNReal.mul_lt_top_iff ?_
+        left
+        exact ⟨ENNReal.coe_lt_top, measure_spanningSets_lt_top μ i⟩
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:3573]:
```suggestion
        exact ENNReal.mul_lt_top_iff ENNReal.coe_lt_top (measure_spanningSets_lt_top μ i)
```

Comment (ADedecker) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean:3573]: You don't need the `iff` version and [ENNReal.mul_lt_top](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/ENNReal.html#ENNReal.mul_lt_top) is easier to use.

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 4]
```diff
@@ -3559,6 +3559,18 @@ instance Add.sigmaFinite (μ ν : Measure α) [SigmaFinite μ] [SigmaFinite ν]
...
+theorem SMul.sigmaFinite {μ : Measure α} [SigmaFinite μ] (c : ℝ≥0) :
+    MeasureTheory.SigmaFinite (c • μ) where
+  out' :=
+  ⟨{  set := spanningSets μ
+      set_mem := fun _ ↦ trivial
+      finite := by
+        intro i
+        simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply,
+          nnreal_smul_coe_apply]
+        exact ENNReal.mul_lt_top ENNReal.coe_lt_top (measure_spanningSets_lt_top μ i)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:3571]:
```suggestion
        exact ENNReal.mul_lt_top ENNReal.coe_ne_top (measure_spanningSets_lt_top μ i).ne
```

**Comment by ADedecker** [comment]
Thanks! 

maintainer merge

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 5]
```diff
@@ -3559,6 +3559,18 @@ instance Add.sigmaFinite (μ ν : Measure α) [SigmaFinite μ] [SigmaFinite ν]
   refine' @sum.sigmaFinite _ _ _ _ _ (Bool.rec _ _) <;> simpa
 #align measure_theory.add.sigma_finite MeasureTheory.Add.sigmaFinite
 
+theorem SMul.sigmaFinite {μ : Measure α} [SigmaFinite μ] (c : ℝ≥0) :
```
Comment (ocfnash) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:3562]: Is there any reason why this can't be an instance?
```suggestion
instance SMul.sigmaFinite {μ : Measure α} [SigmaFinite μ] (c : ℝ≥0) :
```

**Comment by ocfnash** [comment]
Thanks!

bors merge
